US08859566B2
A mixture of 5,6-Diamino-3-propyl-1H-pyrimidine-2,4-dione (0.12 g, 0.67 mmol) and 1-[1-(2,4-Difluoro-phenyl)-5-oxo-pyrrolidin-3-ylmethyl]-1H-pyrazole-4-carboxylic acid (0.18 g, 0.56 mmol) in methanol (6 ml) was cooled to 0° C. and added EDCI.HCl (0.15 g, 0.78 mmol) and stirred at 25° C. for 20 hours. Solvents were removed under reduced pressure and to this reaction mixture water (10 ml) was added. Solid obtained was filtered off and washed with cold water (20 ml) followed by diethyl ether (25 ml). It was then dried and the crude product was purified by column chromatography using silica gel (100-200 mesh) and 6% methanol in DCM as an eluent to obtain 1-[1-(2,4-Difluoro-phenyl)-5-oxo-pyrrolidin-3-ylmethyl]-1H-pyrazole-4-carboxylic acid (6-amino-2,4-dioxo-3-propyl-1,2,3,4-tetrahydro-pyrimidin-5-yl)-amide (0.165 g, 60%) as an off white solid.

reactant | 5,6-Diamino-3-propyl-1H-pyrimidine-2,4-dione | 0.67 mmol, 0.12 g | NC=1C(N(C(NC1N)=O)CCC)=O | C7H12N4O2
reactant | 1-[1-(2,4-Difluoro-phenyl)-5-oxo-pyrrolidin-3-ylmethyl]-1H-pyrazole-4-carboxylic acid | 0.56 mmol, 0.18 g | FC1=C(C=CC(=C1)F)N1CC(CC1=O)CN1N=CC(=C1)C(=O)O | C15H13F2N3O3
reactant | EDCI.HCl | 0.78 mmol, 0.15 g | CCN=C=NCCCN(C)C.Cl
solvent | methanol | 6 ml | CO | CH4O
product | 1-[1-(2,4-Difluoro-phenyl)-5-oxo-pyrrolidin-3-ylmethyl]-1H-pyrazole-4-carboxylic acid (6-amino-2,4-dioxo-3-propyl-1,2,3,4-tetrahydro-pyrimidin-5-yl)-amide | 0.165 g, 60% | NC1=C(C(N(C(N1)=O)CCC)=O)NC(=O)C=1C=NN(C1)CC1CN(C(C1)=O)C1=C(C=C(C=C1)F)F | C22H23F2N7O4
